US08034812B2
Production of 1,4-dimethyl-1H-pyrazole-3-carboxylic acid
Using ethyl 1,4-dimethyl-1H-pyrazole-3-carboxylate (440 mg, 2.62 mmol), 1N aqueous sodium hydroxide solution (3 mL, 3 mmol) and ethanol (3 mL), and by a reaction in the same manner as in Reference Example 20, the title compound (152 mg, 41%) was obtained as pale-yellow crystals.

reactant | ethyl 1,4-dimethyl-1H-pyrazole-3-carboxylate | 2.62 mmol, 440 mg | CN1N=C(C(=C1)C)C(=O)OCC | C8H12N2O2
reactant | sodium hydroxide | 3 mmol, 1N, 3 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1,4-dimethyl-1H-pyrazole-3-carboxylic acid | 152 mg, 41% | CN1N=C(C(=C1)C)C(=O)O | C6H8N2O2
